US07456164B2
A mixture of 4-[4-(3-chloro-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile (3.0 g, 10.7 mmol), potassium iodide (100 mg, 0.60 mmol) and ethylmethylamine (5.0 ml, 58.3 mmol) in acetonitrile (30 mL) was heated to 60° C. overnight. The mixture was cooled, concentrated in vacuo and partitioned between dilute Na2CO3 solution (40 ml) and ethyl acetate (80 ml). The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. Purification of the crude material was carried out with flash chromatography (silica gel, ethyl acetate/methanol/aqueous ammonia 98:2:0.2 to 85:15:1.5) to afford 4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile as a pale yellow oil (2.0 g, 6.6 mmol, 62%). 1H NMR (400 MHz CDCl3) δ 1.06 (t, 3H), 1.91-2.00 (m, 2H), 2.00-2.14 (m, 4H), 2.25 (s, 3H), 2.40-2.50 (m, 2H), 2.53 (t, 2H), 3.89 (m, 2H), 4.00-4.11 (m, 4H), 6.91 (d, 2H), 7.38 (d, 2H).

reactant | 4-[4-(3-chloro-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile | 10.7 mmol, 3.0 g | ClCCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C15H18ClNO2
reactant | ethylmethylamine | 58.3 mmol, 5.0 ml | C(C)NC | C3H9N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | potassium iodide | 0.60 mmol, 100 mg | [I-].[K+]
product | 4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile | 6.6 mmol, 2.0 g, 62% | C(C)N(CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N)C | C18H26N2O2
